US06069156
A mixture of 2-benzyloxycarbonylamino-4-methoxycarbonylphenyl trifluoromethanesulfonate (1.01 g), 1-pentynyl(tributyl)stannane (1.02 g), lithium chloride (0.29 g) and tetrakis(triphenylphosphine)palladium (80 mg) in dioxane (24 ml) was heated at 100° C. for 2 hours. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (4:1) to give methyl 3-benzyloxycarbonylamino-4-(1-pentynyl)benzoate (536 mg) as colorless crystals.

reactant | 2-benzyloxycarbonylamino-4-methoxycarbonylphenyl trifluoromethanesulfonate | 1.01 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(=O)OC)NC(=O)OCC1=CC=CC=C1)(F)F | C17H14F3NO7S
reactant | 1-pentynyl(tributyl)stannane | 1.02 g | C(#CCCC)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 0.29 g | [Cl-].[Li+]
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-benzyloxycarbonylamino-4-(1-pentynyl)benzoate | 536 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C(=O)OC)C=CC1C#CCCC | C21H21NO4
